US04734422
4-Methyl-5-[4-(Methylthio)benzoyl]-2(3H)-Thiazolone
Gaseus methylmercaptan is added to a solution of 5-(4-fluorobenzoyl)-4-methyl-2(3H)-thiazolone (4.7 g) in ethanol (200 ml) to saturation. The mixture is heated at 120° C. in a sealed stainless steel container for 16 hours. After cooling to ambient temperature, the mixture is evaporated to dryness. The residue is recrystallized twice from ethanol to give the title compound.

reactant | methylmercaptan | CS | CH4S
reactant | 5-(4-fluorobenzoyl)-4-methyl-2(3H)-thiazolone | 4.7 g | FC1=CC=C(C(=O)C2=C(NC(S2)=O)C)C=C1 | C11H8FNO2S
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 4-Methyl-5-[4-(Methylthio)benzoyl]-2(3H)-Thiazolone | CC=1NC(SC1C(C1=CC=C(C=C1)SC)=O)=O | C12H11NO2S2
